US05110496
4-(5-n-Nonyloxylpyrimidine-2-yl)benzoic acid (1.88 g) was heated together with excess thionyl chloride for 8 hours under reflux and thereafter, unaltered thionyl chloride was distilled off to obtain 4-(5-n-nonyloxypyrimidine-2-yl)benzoic acid chloride.

reactant | 4-(5-n-Nonyloxylpyrimidine-2-yl)benzoic acid | 1.88 g | C(CCCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C(=O)O)C=C1 | C20H26N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(5-n-nonyloxypyrimidine-2-yl)benzoic acid chloride | C(CCCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C(=O)Cl)C=C1 | C20H25ClN2O2
